US08492378B2
ethyl 3-bromofuro[3,2-b]pyridine-5-carboxylate
To a solution of ethyl furo[3,2-b]pyridine-5-carboxylate (0.30 g, 1.57 mmol) in dichloromethane (5 mL) was added dropwise bromine (7.82 mL, 157 mmol) at room temperature, and the resulting mixture was stirred for 3.5 hr. The reaction mixture was concentrated under reduced pressure, and the residue was dissolved in tetrahydrofuran (5 mL). To this solution was added dropwise a 1 M potassium hydroxide ethanol solution (10 mL) at 0° C., and the resulting mixture was stirred at room temperature for 5 min. The reaction mixture was diluted with ethyl acetate, washed with water and saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=17/3-1/1) to give the title compound (0.15 g, yield 36%) as colorless crystals.

reactant | ethyl furo[3,2-b]pyridine-5-carboxylate | 1.57 mmol, 0.30 g | O1C=CC2=NC(=CC=C21)C(=O)OCC | C10H9NO3
reactant | bromine | 157 mmol, 7.82 mL | BrBr | Br2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | ethyl 3-bromofuro[3,2-b]pyridine-5-carboxylate | 0.15 g, yield 36% | BrC1=COC=2C1=NC(=CC2)C(=O)OCC | C10H8BrNO3
